US07947851B2
Step b) Formation of methyl 2-fluoro-5-(hexyl[4-(phenylethynyl)benzyl]amino}benzoate
The title compound was prepared following the procedure described in Example 23 step b) using methyl 2-fluoro-5-{[4-(phenylethynyl)benzyl]amino}benzoate (213 mg, 0.59 mmol) and hexanal (Aldrich, 0.11 mL, 0.95 mmol). The title compound was obtained as a pale yellow oil (215 mg, 82%). HPLC, Rt: 6.1 min (purity: 94.5%). LC/MS, M+(ESI): 444.2. 1H NMR (CDCl3) δ: 7.51-7.44 (m, 4H), 7.32 (m, 3H), 7.17 (m, 3H), 6.92 (dd, J=9.8, 9.7 Hz, 1H), 6.74 (m, 1H), 4.49 (s, 2H), 3.88 (s, 3H), 3.35 (t, J=7.5 Hz, 2H), 1.61 (m, 2H), 1.29 (m, 6H), 0.88 (m, 3H).

reactant | methyl 2-fluoro-5-{[4-(phenylethynyl)benzyl]amino}benzoate | 0.59 mmol, 213 mg | FC1=C(C(=O)OC)C=C(C=C1)NCC1=CC=C(C=C1)C#CC1=CC=CC=C1 | C23H18FNO2
reactant | hexanal | 0.95 mmol, 0.11 mL | C(CCCCC)=O | C6H12O
product | methyl 2-fluoro-5-(hexyl[4-(phenylethynyl)benzyl]amino}benzoate | FC1=C(C(=O)OC)C=C(C=C1)N(CC1=CC=C(C=C1)C#CC1=CC=CC=C1)CCCCCC | C29H30FNO2
